US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]isonicotinamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (155 mg, 0.50 mmol), N-methylpyrrolidone (3 mL) and pyridine-4-carbonylchloride hydrochloride (107 mg, 0.60 mmol), and in the same manner as in Example 162, the title compound (163 mg, yield 78%) was obtained.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 155 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | pyridine-4-carbonylchloride hydrochloride | 0.60 mmol, 107 mg | Cl.N1=CC=C(C=C1)C(=O)Cl
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]isonicotinamide | 163 mg, yield 78% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC=NC=C2)=O)C1 | C22H18N6O3
